US06696437B1
2-(Pyrazol-4-yl)benzimidazole-4-carboxamide
35 0.56 g (5 mmol) of 4-pyrazolecarboxylic acid was stirred with 0.81 g (5 mmol) of carbonyldiimidazole in 20 ml of dimethylformamide at room temp. for 2 hours. 1.12 g (5 mmol) of 2,3-diaminobenzamide in 10 ml of pyridine were added. The reaction mixture was stirred at 50° C. for 2 hours. The reaction mixture was then concentrated in vacuo, and the residue was stirred with water. The precipitate was filtered off and dried in vacuo at 40° C. and then stirred in 10 ml of glacial acetic acid at 100° C. The residue after concentration in vacuo was stirred with saturated sodium bicarbonate solution. After filtration, the filtrate was concentrated with toluene in vacuo several times. The residue was stirred with tetrohydrofuran. Concentration in vacuo resulted in 150 mg of yellow powder.

reactant | 4-pyrazolecarboxylic acid | N1N=CC(=C1)C(=O)O | C4H4N2O2
reactant | carbonyldiimidazole | 5 mmol, 0.81 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2,3-diaminobenzamide | 5 mmol, 1.12 g | NC1=C(C(=O)N)C=CC=C1N | C7H9N3O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-(Pyrazol-4-yl)benzimidazole-4-carboxamide | 150 mg | N1N=CC(=C1)C=1NC2=C(N1)C=CC=C2C(=O)N | C11H9N5O
